US07659268B2
Step b: 1-(3-(6-(1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-3-methylpyridin-2-yl)phenyl)cyclopropanecarboxylic acid
Methyl 1-(3-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-3-methylpyridin-2-yl)phenyl)cyclopropanecarboxylate (˜0.26 mmol) was dissolved in acetone (3 mL) and water (3 mL) in a reaction tube. LiOH.H2O (25 mg, 60 mmol) was added, and the reaction mixture was stirred at room temperature for 16 hours. The mixture was acidified with 1N HCl until pH 1-2. The volatiles were removed under reduced pressure. The residue was taken up in methylene chloride and the organic layer was dried over Na2SO4 and concentrated under reduced pressure. The solid was triturated with Et2O, then hexanes to 1-(3-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-3-methylpyridin-2-yl)phenyl)cyclopropanecarboxylic acid. ESI-MS m/z 493.2 (M+1)+. Retention time 1.80 minutes.

reactant | Methyl 1-(3-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-3-methylpyridin-2-yl)phenyl)cyclopropanecarboxylate | ˜0.26 mmol | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C=2C=C(C=CC2)C2(CC2)C(=O)OC)C)F | C28H24F2N2O5
reactant | water | 3 mL | O | H2O
reactant | LiOH.H2O | 60 mmol, 25 mg | O[Li].O
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 1-(3-(6-(1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-3-methylpyridin-2-yl)phenyl)cyclopropanecarboxylic acid | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C=2C=C(C=CC2)C2(CC2)C(=O)O)C)F | C27H22F2N2O5
